US06313122B1
C. 2-[(4-tert-Butylbenzoyl)amino]-3-methoxy-N-(4-methoxyphenyl)benzamide
Using the procedure described in Example 93, Part A, 4-tert-butylbenzoyl chloride (0.81 mmol) and 2-amino-N-(4-methoxyphenyl)-3-methoxybenzamide (0.73 mmol) yielded 0.18 g (57%) of the title compound.

reactant | 4-tert-butylbenzoyl chloride | 0.81 mmol | C(C)(C)(C)C1=CC=C(C(=O)Cl)C=C1 | C11H13ClO
reactant | 2-amino-N-(4-methoxyphenyl)-3-methoxybenzamide | 0.73 mmol | NC1=C(C(=O)NC2=CC=C(C=C2)OC)C=CC=C1OC | C15H16N2O3
product | 2-[(4-tert-Butylbenzoyl)amino]-3-methoxy-N-(4-methoxyphenyl)benzamide | 0.18 g, 57% | C(C)(C)(C)C1=CC=C(C(=O)NC2=C(C(=O)NC3=CC=C(C=C3)OC)C=CC=C2OC)C=C1 | C26H28N2O4
